US07524852B2
Synthesis of tert-butyl 4-(1-hydroxy-2-pyrrolidin-1-ylethyl)piperidinecarboxylate for use in the synthesis of Compound 3-29
Tert-butyl 4-(2-pyrrolidin-1-ylacetyl)piperidinecarboxylate (0.33 g, 1.1 mmol) prepared according to Reference Example 12 was dissolved in methanol (5.0 mL), and was mixed with sodium borohydride (0.13 g, 3.3 mmol) added with stirring under ice-cooling, followed by stirring at room temperature for one hour. Diluted hydrochloric acid (1.0 mol/L, 0.5 mL) was added dropwise to the reaction mixture under ice-cooling, and the solvent was distilled off. The residue was diluted with water and was extracted with ethyl acetate. The organic layer was washed with brine, was dried over anhydrous sodium sulfate, and the solvent was distilled off. The residue was dried under reduced pressure and thereby yielded tert-butyl 4-(1-hydroxy-2-pyrrolidin-1-ylethyl)piperidinecarboxylate (0.24 g, 73%).

reactant | Tert-butyl 4-(2-pyrrolidin-1-ylacetyl)piperidinecarboxylate | 1.1 mmol, 0.33 g | N1(CCCC1)CC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C16H28N2O3
reactant | sodium borohydride | 3.3 mmol, 0.13 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1.0 mol/L, 0.5 mL | Cl | ClH
solvent | methanol | 5.0 mL | CO | CH4O
product | tert-butyl 4-(1-hydroxy-2-pyrrolidin-1-ylethyl)piperidinecarboxylate | OC(CN1CCCC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H30N2O3
